US07776910B2
Lithium alluminiumhydride (1.0 M in THF, 0.51 mL) was added to a solution of {3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid methyl ester (100 mg, 0.2554 mmol) in THF (1 mL) and the resulting mixture was stirred at room temperature for 1 hour. Water was slowly added and the mixture was extracted with DCM. The combined organic extracts were washed with water and brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (DCM/MeOH/NH4OH) to give 7 mg of 2-{3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-ethanol, MS (M+H)=364.

reactant | Lithium | [Li] | Li
reactant | {3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid methyl ester | 0.2554 mmol, 100 mg | COC(CN1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C)=O | C20H22FNO4S
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-{3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-ethanol | 7 mg | FC=1C=C(C=CC1)S(=O)(=O)C1=CC(=C(C=C1)C1CN(CC1)CCO)C | C19H22FNO3S
